### PR TITLE
[Merged by Bors] - feat: submonoid of pairs with quotient in a submonoid

### PR DESCRIPTION
**Pull request by Kiolt**
This submonoid is part of the definition of toric ideals.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean [hunk 1]
```diff
@@ -0,0 +1,39 @@
...
+--TODO(Yael): make simp
+variable (f g s) in
+@[to_additive]
+lemma divPairs_comap :
+    divPairs g (.comap (g.mulEquivOfLocalizations f).toMonoidHom s) = divPairs f s := by
+  unfold divPairs
+  rw [comap_comap]
+  congr!
+  ext ⟨a, b⟩
+  simp
```
Comment (Paul-Lez) [inline Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:37]:
```suggestion
  ext; simp
```

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean [hunk 2]
```diff
@@ -0,0 +1,39 @@
...
+def divPairs : Submonoid (M × M) := s.comap <| divMonoidHom.comp <| f.toMap.prodMap f.toMap
+
+@[to_additive (attr := simp)]
+lemma mem_divPairs : x ∈ divPairs f s ↔ f.toMap x.1 / f.toMap x.2 ∈ s := .rfl
+
+--TODO(Yael): make simp
+variable (f g s) in
+@[to_additive]
+lemma divPairs_comap :
+    divPairs g (.comap (g.mulEquivOfLocalizations f).toMonoidHom s) = divPairs f s := by
```
Comment (Paul-Lez) [inline Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:32]:
```suggestion
    divPairs g (.comap (g.mulEquivOfLocalizations f) s) = divPairs f s  := by
```
I personally have a slight preference for this way of writing it.

Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:32]: The issue is that this generic coercion from `F` to `M →* N` in the presence of `MonoidHomClass F M N` has no API. I am removing it in #21031

Comment (Paul-Lez) [reply Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:32]: Oh good to know. In that case let's ignore my previous comment.

**Review by Paul-Lez — APPROVED** [review]

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean [hunk 3]
```diff
@@ -0,0 +1,35 @@
...
+
+variable (f s) in
+/-- The submonoid of pairs whose quotient lies in a submonoid of the localization. -/
+@[to_additive "The submonoid of pairs whose difference lie in a submonoid of the localization."]
+def divPairs : Submonoid (M × M) := s.comap <| divMonoidHom.comp <| f.toMap.prodMap f.toMap
+
+@[to_additive (attr := simp)]
+lemma mem_divPairs : x ∈ divPairs f s ↔ f.toMap x.1 / f.toMap x.2 ∈ s := .rfl
+
+--TODO(Yael): make simp
```
Comment (erdOne) [inline Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:28]: Should this todo be done in this PR?

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+
+/-!
+# Submonoid of pairs with quotient in a submonoid
+
+This file defines the submonoid of pairs whose quotient lies in a submonoid of the localization.
+-/
+
+variable {M G H : Type*} [CommMonoid M] [CommGroup G] [CommGroup H]
+  {f : (⊤ : Submonoid M).LocalizationMap G} {g : (⊤ : Submonoid M).LocalizationMap H}
+  {s : Submonoid G} {x : M × M}
```
Comment (erdOne) [inline Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:16]: Should these be explicit?

Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:16]: No, because they are used in an iff. In general, I find it much less confusing only having implicit argument in `variable`

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean]: No, can't be currently. I have clarified

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean [hunk 5]
```diff
@@ -0,0 +1,35 @@
...
+
+namespace Submonoid
+
+variable (f s) in
+/-- The submonoid of pairs whose quotient lies in a submonoid of the localization. -/
+@[to_additive "The submonoid of pairs whose difference lie in a submonoid of the localization."]
```
Comment (erdOne) [inline Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:22]:
```suggestion
@[to_additive "The submonoid of pairs whose difference lies in a submonoid of the localization."]
```

File: Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean [hunk 6]
```diff
@@ -0,0 +1,35 @@
...
+-/
+
+variable {M G H : Type*} [CommMonoid M] [CommGroup G] [CommGroup H]
+  {f : (⊤ : Submonoid M).LocalizationMap G} {g : (⊤ : Submonoid M).LocalizationMap H}
+  {s : Submonoid G} {x : M × M}
+
+namespace Submonoid
+
+variable (f s) in
+/-- The submonoid of pairs whose quotient lies in a submonoid of the localization. -/
```
Comment (erdOne) [inline Mathlib/GroupTheory/MonoidLocalization/DivPairs.lean:21]: Can you give it a less cryptic docstring? Thanks.

**Review by erdOne — COMMENTED** [review]
maintainer merge

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors merge
